US05001279
The procedure of Example 1 is repeated several times using the amounts of 1,2,3-trichloro-4,6-dinitrobenzene (TCDNB), water and caustic soda shown in Table 1. (Caustic soda is added in a 50 weight percent aqueous solution, but the quantity shown is the quantity of caustic soda alone.) The TCDNB is mixed with water in a 1000 ml resin kettle equipped with a double-paddle stirrer, a thermometer and a reflux condenser. The stirrer is set for 1000 rpm. The reaction mixture is heated. The caustic soda solution is added in each case when the temperature reaches about 70° C. The temperature of the reaction is raised to and maintained at about the temperature shown in Table 1. Samples are analyzed by GC at regular intervals throughout the reaction. Each reaction is continued for 6 hours and then terminated, except that the reaction of sample 15 is terminated after 3 hours when GC shows that the reaction is completed. The GC analysis shows that those samples having an asterisk (*) were not complete when the reaction was terminated after 6 hours. Samples without an asterisk yield 2-chloro-4,6-dinitroresorcinol with at least 90 percent purity and a 75 percent yield. The major impurity in samples with an asterisk is unconverted 2,3-dichloro-4,6-dinitrophenol.

reactant | 1,2,3-trichloro-4,6-dinitrobenzene | ClC1=C(C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])Cl)Cl | C6HCl3N2O4
reactant | caustic soda | [OH-].[Na+]
reactant | water | O | H2O
product | 2-chloro-4,6-dinitroresorcinol | 75 percent yield | ClC1=C(O)C(=CC(=C1O)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O6
